US06982274B2
3-Benzo[b]thiophen-2-yl-4-fluoro-1H-5-indazolecarboxylic acid methyl ester
To a solution of 515 mg of 3-bromo-4-fluoro-1-trityl-1H-indazole-5-carboxylic acid methyl ester obtained in Production Example II-13-e in 7.5 ml dimethylformamide were sequentially added 267 mg of 2-benzo[b]thiopheneboronic acid, 1 ml of an aqueous solution of 291 mg of potassium fluoride, 30 mg of 2-(di-tert-butylphosphino)biphenyl and 12 mg of palladium(II) acetate, and the mixture was stirred at 55° C. for 1 hour. The reaction mixture was ice-cooled, and then the precipitated crystals were collected by filtration. The resulting crystals were dissolved in a mixture solution of ethyl acetate and tetrahydrofuran, and the mixture was sequentially washed with water, half-saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 504 mg of a crude coupling product. A total of 350 mg of the resulting crude coupling product was suspended in 4 ml of methylene chloride, 2 ml of trifluoroacetic acid and 0.1 ml of triisopropylsilane were added, and the mixture was stirred at room temperature for 15 minutes. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution and it was extracted with 50 ml of ethyl acetate. The organic layer was sequentially washed with saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:toluene=1:9), to give 154 mg of the title compound as pale yellow crystals.

reactant | 3-bromo-4-fluoro-1-trityl-1H-indazole-5-carboxylic acid methyl ester | 515 mg | COC(=O)C=1C(=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Br)F | C28H20BrFN2O2
reactant | 2-benzo[b]thiopheneboronic acid | 267 mg | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | potassium fluoride | 291 mg | [F-].[K+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 30 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triisopropylsilane | 0.1 ml | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium(II) acetate | 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Benzo[b]thiophen-2-yl-4-fluoro-1H-5-indazolecarboxylic acid methyl ester | 154 mg | COC(=O)C=1C(=C2C(=NNC2=CC1)C1=CC2=C(S1)C=CC=C2)F | C17H11FN2O2S
